US06891066B2
Step A: Preparation of 2-fluoro-4-[(trimethylsilyl)ethynyl]aniline
2-Fluoro-4-iodoaniline (5.00 g, 21.1 mmol), CuI (90 mg, 0.42 mmol), and (Ph3P)2PdCl2 (300 mg, 0.42 mmol) were weighed into a flask which was sealed and flushed with N2. A solution of TMS-acetylene (2.28 g, 23.2 mmol) in TEA (20 mL) was added, then the entire mixture stirred 15 hours at room temperature. The reaction mixture was diluted with diethyl ether (200 mL), filtered through Celite®, then all solvents removed under reduced pressure. The resulting dark brown oil was purified by filtration through a plug of flash silica (5% EtOAc/hexanes as eluant) to afford the desired product as a pale brown oil which rapidly solidified to give a crystalline solid (3.85 g, 88%); m.p. (EtOAc/hexanes) 45-47° C. 1H NMR (400 MHz, CDCl3) δ 7.10 (dd, J=11.7, 1.8 Hz, 1 H), 7.06 (ddd, J=8.3, 1.8, 1.0 Hz, 1 H), 6.66 (dd, J=9.4, 8.3 Hz, 1 H), 3.86 (br s, 2 H), 0.22 (s, 9 H). Anal. Calcd for C11H14FNSi: C, 63.7; H, 6.8; N, 6.8. Found: C, 63.7; H, 6.9; N, 6.7. Step B: Preparation of 3,4-difluoro-2-[[2-fluoro-4(trimethylsilylethynyl)phenyl]amino]benzoic acid

reactant | 2-Fluoro-4-iodoaniline | 21.1 mmol, 5.00 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | TMS-acetylene | 23.2 mmol, 2.28 g | [Si](C)(C)(C)C#C | C5H10Si
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
catalyst | CuI | 0.42 mmol, 90 mg | [Cu]I
catalyst | (Ph3P)2PdCl2 | 0.42 mmol, 300 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-fluoro-4-[(trimethylsilyl)ethynyl]aniline | FC1=C(N)C=CC(=C1)C#C[Si](C)(C)C | C11H14FNSi
